.title Wurlitzer 200A — Tremolo Modulation Depth vs Frequency (Register)
*
* PURPOSE: Determine whether the tremolo gain modulation depth is constant
* across the keyboard register or frequency-dependent.
*
* The DSP model shows depth increasing wildly with frequency:
*   C3 (130 Hz): 7.6 dB, C4 (261 Hz): 9.7 dB,
*   C5 (523 Hz): 14.5 dB, C6 (1046 Hz): 23.3 dB
* Target should be ~5-6 dB roughly constant.
*
* METHOD: Two identical preamp circuits instantiated simultaneously —
*   Circuit D (dark):  R_ldr = 1M   (maximum feedback, minimum gain)
*   Circuit B (bright): R_ldr = 19K  (minimum feedback, maximum gain)
* Both driven by the same AC source. Single AC sweep gives us both
* gain curves in one dataset, so we can compute depth = bright - dark
* without cross-run vector scoping issues.
*
*======================================================================
* TRANSISTOR MODEL — Full Gummel-Poon 2N5089
*======================================================================
.MODEL Q2N5089 NPN(
+  IS=3.03E-14 BF=1434 NF=1.005 VAF=98.5 IKF=0.01358
+  ISE=2.88E-15 NE=1.262 BR=4.62 NR=1 VAR=22 IKR=0.1
+  ISC=1.065E-11 NC=1.41 RB=57 RE=0.518 RC=2.58
+  CJE=3.22E-12 VJE=0.65 MJE=0.33 TF=5.4E-10
+  CJC=1.35E-12 VJC=0.4 MJC=0.33 XCJC=0.63 TR=5E-08
+  XTB=1.38 EG=1.11 XTI=3 FC=0.5)

* Protection diode model
.MODEL D1N4148 D(IS=2.52E-09 RS=0.568 N=1.752 BV=100
+  IBV=100E-06 CJO=4E-12 VJ=0.7 M=0.45 TT=6E-09)

*======================================================================
* SHARED AC SOURCE — 10mV peak, typical reed signal level
*======================================================================
Vin in_sig 0 DC 0 AC 0.01

*======================================================================
* CIRCUIT D (DARK): R_ldr = 1M — maximum feedback, minimum gain
*======================================================================
Vcc_d vcc_d 0 DC 14.5

* Input coupling: R-1 (22K) + Cin (0.022uF)
R1d in_sig nodeA_d 22K
Cind nodeA_d base1_d 0.022U

* Base bias and protection
R2d vcc_d base1_d 2MEG
R3d base1_d 0 470K
D1d 0 base1_d D1N4148

* Stage 1: TR-1
Q1d coll1_d base1_d emit1_d Q2N5089
Rc1d vcc_d coll1_d 150K
Cc3d coll1_d base1_d 100P

* TR-1 emitter: Re1 (33K DC path), Ce1 (4.7uF AC coupling to fb junction)
Re1d emit1_d 0 33K
Ce1d emit1_d fb_d 4.7U

* Feedback junction: R-10 (56K) from output, R_ldr (1M) to ground
R10d out_d fb_d 56K
Rldr_d fb_d 0 1MEG

* Stage 2: TR-2 (direct-coupled from coll1)
Q2d coll2_d coll1_d emit2a_d Q2N5089
Rc2d vcc_d coll2_d 1.8K
Re2ad emit2a_d emit2b_d 270
Ce2d emit2a_d emit2b_d 22U
Re2bd emit2b_d 0 820
Cc4d coll2_d coll1_d 100P

* Output: R-9 (6.8K) + load (100K)
R9d coll2_d out_d 6.8K
Rload_d out_d 0 100K

*======================================================================
* CIRCUIT B (BRIGHT): R_ldr = 19K — minimum feedback, maximum gain
*======================================================================
Vcc_b vcc_b 0 DC 14.5

R1b in_sig nodeA_b 22K
Cinb nodeA_b base1_b 0.022U

R2b vcc_b base1_b 2MEG
R3b base1_b 0 470K
D1b 0 base1_b D1N4148

Q1b coll1_b base1_b emit1_b Q2N5089
Rc1b vcc_b coll1_b 150K
Cc3b coll1_b base1_b 100P

Re1b emit1_b 0 33K
Ce1b emit1_b fb_b 4.7U

R10b out_b fb_b 56K
Rldr_b fb_b 0 19K

Q2b coll2_b coll1_b emit2a_b Q2N5089
Rc2b vcc_b coll2_b 1.8K
Re2ab emit2a_b emit2b_b 270
Ce2b emit2a_b emit2b_b 22U
Re2bb emit2b_b 0 820
Cc4b coll2_b coll1_b 100P

R9b coll2_b out_b 6.8K
Rload_b out_b 0 100K

*======================================================================
* CONTROL BLOCK
*======================================================================
.control

echo ""
echo "================================================================"
echo " TREMOLO MODULATION DEPTH vs FREQUENCY"
echo " Wurlitzer 200A Preamp — SPICE Reference"
echo "================================================================"
echo ""
echo " Circuit D: R_ldr = 1M   (dark — max feedback — min gain)"
echo " Circuit B: R_ldr = 19K  (bright — min feedback — max gain)"
echo " Both circuits driven by shared 10mV AC source."
echo ""

*----------------------------------------------------------------------
* DC OPERATING POINT — verify both circuits are biased correctly
*----------------------------------------------------------------------
op

echo "--- DC Operating Point ---"
echo ""
echo " DARK (R_ldr=1M):"
echo "  TR-1: B=$&v(base1_d) E=$&v(emit1_d) C=$&v(coll1_d)"
echo "  TR-2: B=$&v(coll1_d) E=$&v(emit2a_d) C=$&v(coll2_d)"
echo "  Output=$&v(out_d)  fb_junct=$&v(fb_d)"
echo ""
echo " BRIGHT (R_ldr=19K):"
echo "  TR-1: B=$&v(base1_b) E=$&v(emit1_b) C=$&v(coll1_b)"
echo "  TR-2: B=$&v(coll1_b) E=$&v(emit2a_b) C=$&v(coll2_b)"
echo "  Output=$&v(out_b)  fb_junct=$&v(fb_b)"

*----------------------------------------------------------------------
* AC SWEEP — single run captures both dark and bright gain curves
*----------------------------------------------------------------------
ac dec 200 10 100K

* Full-chain gain: V(out)/V(in_sig)
let gain_dark = vdb(out_d)
let gain_bright = vdb(out_b)

* Preamp-only gain: V(out)/V(base1) — strips input coupling network
let pre_dark = vdb(out_d) - vdb(base1_d)
let pre_bright = vdb(out_b) - vdb(base1_b)

* MODULATION DEPTH — the money shot
let depth_full = gain_bright - gain_dark
let depth_pre = pre_bright - pre_dark

* Feedback fraction: V(emit1)/V(out) for each circuit
let beta_dark = vdb(emit1_d) - vdb(out_d)
let beta_bright = vdb(emit1_b) - vdb(out_b)
let delta_beta = beta_dark - beta_bright

echo ""
echo "================================================================"
echo " PART 1: GAIN AT MUSICAL NOTE FREQUENCIES"
echo "================================================================"
echo ""
echo "  freq(Hz)   dark_full   bright_full   dark_pre   bright_pre"
echo "  ---------  ----------  -----------  ---------  -----------"

meas ac df130 find gain_dark at=130
meas ac bf130 find gain_bright at=130
meas ac dp130 find pre_dark at=130
meas ac bp130 find pre_bright at=130

meas ac df261 find gain_dark at=261
meas ac bf261 find gain_bright at=261
meas ac dp261 find pre_dark at=261
meas ac bp261 find pre_bright at=261

meas ac df523 find gain_dark at=523
meas ac bf523 find gain_bright at=523
meas ac dp523 find pre_dark at=523
meas ac bp523 find pre_bright at=523

meas ac df1046 find gain_dark at=1046
meas ac bf1046 find gain_bright at=1046
meas ac dp1046 find pre_dark at=1046
meas ac bp1046 find pre_bright at=1046

meas ac df2093 find gain_dark at=2093
meas ac bf2093 find gain_bright at=2093
meas ac dp2093 find pre_dark at=2093
meas ac bp2093 find pre_bright at=2093

meas ac df4186 find gain_dark at=4186
meas ac bf4186 find gain_bright at=4186
meas ac dp4186 find pre_dark at=4186
meas ac bp4186 find pre_bright at=4186

echo "  130 (C3):  $&df130  $&bf130  $&dp130  $&bp130"
echo "  261 (C4):  $&df261  $&bf261  $&dp261  $&bp261"
echo "  523 (C5):  $&df523  $&bf523  $&dp523  $&bp523"
echo "  1046 (C6): $&df1046  $&bf1046  $&dp1046  $&bp1046"
echo "  2093 (C7): $&df2093  $&bf2093  $&dp2093  $&bp2093"
echo "  4186 (C8): $&df4186  $&bf4186  $&dp4186  $&bp4186"

echo ""
echo "================================================================"
echo " PART 2: TREMOLO MODULATION DEPTH (bright - dark)"
echo "        *** THIS IS THE KEY RESULT ***"
echo "================================================================"
echo ""

meas ac dff130 find depth_full at=130
meas ac dff261 find depth_full at=261
meas ac dff523 find depth_full at=523
meas ac dff1046 find depth_full at=1046
meas ac dff2093 find depth_full at=2093
meas ac dff4186 find depth_full at=4186

meas ac dpf130 find depth_pre at=130
meas ac dpf261 find depth_pre at=261
meas ac dpf523 find depth_pre at=523
meas ac dpf1046 find depth_pre at=1046
meas ac dpf2093 find depth_pre at=2093
meas ac dpf4186 find depth_pre at=4186

echo "  freq(Hz)   full_chain(dB)  preamp_only(dB)"
echo "  ---------  --------------  ---------------"
echo "  130 (C3):  $&dff130          $&dpf130"
echo "  261 (C4):  $&dff261          $&dpf261"
echo "  523 (C5):  $&dff523          $&dpf523"
echo "  1046 (C6): $&dff1046         $&dpf1046"
echo "  2093 (C7): $&dff2093         $&dpf2093"
echo "  4186 (C8): $&dff4186         $&dpf4186"

echo ""
echo "  If depth is ~constant (~5-6 dB) across register:"
echo "    -> DSP model has a bug causing frequency-dependent depth"
echo "  If depth increases with frequency:"
echo "    -> Circuit genuinely has this behavior"

echo ""
echo "================================================================"
echo " PART 3: FINE FREQUENCY SWEEP — depth at 20 frequencies"
echo "================================================================"
echo ""
echo "  freq(Hz)   dark(dB)  bright(dB)  depth(dB)"
echo "  ---------  --------  ----------  ---------"

meas ac d50 find gain_dark at=50
meas ac b50 find gain_bright at=50
meas ac x50 find depth_full at=50

meas ac d100 find gain_dark at=100
meas ac b100 find gain_bright at=100
meas ac x100 find depth_full at=100

meas ac d200 find gain_dark at=200
meas ac b200 find gain_bright at=200
meas ac x200 find depth_full at=200

meas ac d300 find gain_dark at=300
meas ac b300 find gain_bright at=300
meas ac x300 find depth_full at=300

meas ac d500 find gain_dark at=500
meas ac b500 find gain_bright at=500
meas ac x500 find depth_full at=500

meas ac d700 find gain_dark at=700
meas ac b700 find gain_bright at=700
meas ac x700 find depth_full at=700

meas ac d1k find gain_dark at=1000
meas ac b1k find gain_bright at=1000
meas ac x1k find depth_full at=1000

meas ac d1k5 find gain_dark at=1500
meas ac b1k5 find gain_bright at=1500
meas ac x1k5 find depth_full at=1500

meas ac d2k find gain_dark at=2000
meas ac b2k find gain_bright at=2000
meas ac x2k find depth_full at=2000

meas ac d3k find gain_dark at=3000
meas ac b3k find gain_bright at=3000
meas ac x3k find depth_full at=3000

meas ac d4k find gain_dark at=4000
meas ac b4k find gain_bright at=4000
meas ac x4k find depth_full at=4000

meas ac d5k find gain_dark at=5000
meas ac b5k find gain_bright at=5000
meas ac x5k find depth_full at=5000

meas ac d7k find gain_dark at=7000
meas ac b7k find gain_bright at=7000
meas ac x7k find depth_full at=7000

meas ac d10k find gain_dark at=10000
meas ac b10k find gain_bright at=10000
meas ac x10k find depth_full at=10000

meas ac d15k find gain_dark at=15000
meas ac b15k find gain_bright at=15000
meas ac x15k find depth_full at=15000

meas ac d20k find gain_dark at=20000
meas ac b20k find gain_bright at=20000
meas ac x20k find depth_full at=20000

echo "  50 Hz:     $&d50     $&b50     $&x50"
echo "  100 Hz:    $&d100    $&b100    $&x100"
echo "  200 Hz:    $&d200    $&b200    $&x200"
echo "  300 Hz:    $&d300    $&b300    $&x300"
echo "  500 Hz:    $&d500    $&b500    $&x500"
echo "  700 Hz:    $&d700    $&b700    $&x700"
echo "  1000 Hz:   $&d1k     $&b1k     $&x1k"
echo "  1500 Hz:   $&d1k5    $&b1k5    $&x1k5"
echo "  2000 Hz:   $&d2k     $&b2k     $&x2k"
echo "  3000 Hz:   $&d3k     $&b3k     $&x3k"
echo "  4000 Hz:   $&d4k     $&b4k     $&x4k"
echo "  5000 Hz:   $&d5k     $&b5k     $&x5k"
echo "  7000 Hz:   $&d7k     $&b7k     $&x7k"
echo "  10000 Hz:  $&d10k    $&b10k    $&x10k"
echo "  15000 Hz:  $&d15k    $&b15k    $&x15k"
echo "  20000 Hz:  $&d20k    $&b20k    $&x20k"

echo ""
echo "================================================================"
echo " PART 4: BANDWIDTH COMPARISON"
echo "================================================================"

meas ac dk1k find pre_dark at=1000
let dtgt = dk1k - 3
meas ac dbw when pre_dark=dtgt cross=last from=1000 to=100000

meas ac bk1k find pre_bright at=1000
let btgt = bk1k - 3
meas ac bbw when pre_bright=btgt cross=last from=1000 to=100000

let dlin = 10^(dk1k/20)
let blin = 10^(bk1k/20)
let dgbw = dlin * dbw
let bgbw = blin * bbw
let gbw_ratio = bgbw / dgbw

echo ""
echo "  Dark:   midband=$&dk1k dB ($&dlin x), BW=$&dbw Hz, GBW=$&dgbw Hz"
echo "  Bright: midband=$&bk1k dB ($&blin x), BW=$&bbw Hz, GBW=$&bgbw Hz"
echo "  GBW ratio (bright/dark) = $&gbw_ratio"
echo "  (If GBW ratio > 1, GBW scales with gain, not constant)"

echo ""
echo "================================================================"
echo " PART 5: FEEDBACK FRACTION — beta(f) = V(emit1)/V(out)"
echo "================================================================"
echo ""
echo "  freq(Hz)   beta_dark(dB)  beta_bright(dB)  delta(dB)"
echo "  ---------  -------------  ---------------  ---------"

meas ac bd130 find beta_dark at=130
meas ac bb130 find beta_bright at=130
meas ac db130 find delta_beta at=130

meas ac bd261 find beta_dark at=261
meas ac bb261 find beta_bright at=261
meas ac db261 find delta_beta at=261

meas ac bd523 find beta_dark at=523
meas ac bb523 find beta_bright at=523
meas ac db523 find delta_beta at=523

meas ac bd1046 find beta_dark at=1046
meas ac bb1046 find beta_bright at=1046
meas ac db1046 find delta_beta at=1046

meas ac bd2093 find beta_dark at=2093
meas ac bb2093 find beta_bright at=2093
meas ac db2093 find delta_beta at=2093

meas ac bd5k find beta_dark at=5000
meas ac bb5k find beta_bright at=5000
meas ac db5k find delta_beta at=5000

meas ac bd10k find beta_dark at=10000
meas ac bb10k find beta_bright at=10000
meas ac db10k find delta_beta at=10000

meas ac bd15k find beta_dark at=15000
meas ac bb15k find beta_bright at=15000
meas ac db15k find delta_beta at=15000

echo "  130 Hz:    $&bd130   $&bb130   $&db130"
echo "  261 Hz:    $&bd261   $&bb261   $&db261"
echo "  523 Hz:    $&bd523   $&bb523   $&db523"
echo "  1046 Hz:   $&bd1046  $&bb1046  $&db1046"
echo "  2093 Hz:   $&bd2093  $&bb2093  $&db2093"
echo "  5000 Hz:   $&bd5k    $&bb5k    $&db5k"
echo "  10000 Hz:  $&bd10k   $&bb10k   $&db10k"
echo "  15000 Hz:  $&bd15k   $&bb15k   $&db15k"

echo ""
echo "  INTERPRETATION:"
echo "  - delta_beta CONSTANT -> depth from preamp is constant"
echo "  - delta_beta VARIES -> Ce1/Miller caps create freq-dependent feedback"
echo "  - Even with constant delta_beta, if loop gain A*beta < 1 at"
echo "    higher frequencies, the gain becomes open-loop and R_ldr"
echo "    has less effect -> depth DECREASES at HF"
echo "  - Conversely, if the two gain curves have DIFFERENT BW (bright"
echo "    rolls off at a different frequency than dark), depth will"
echo "    change near the BW frequencies"

echo ""
echo "================================================================"
echo " PART 6: DEPTH AT PREAMP-ONLY (no input coupling) FREQUENCIES"
echo " (Isolates whether input network contributes to depth variation)"
echo "================================================================"
echo ""
echo "  freq(Hz)   depth_preamp(dB)"
echo "  ---------  ----------------"

meas ac xp50 find depth_pre at=50
meas ac xp100 find depth_pre at=100
meas ac xp200 find depth_pre at=200
meas ac xp500 find depth_pre at=500
meas ac xp1k find depth_pre at=1000
meas ac xp2k find depth_pre at=2000
meas ac xp5k find depth_pre at=5000
meas ac xp10k find depth_pre at=10000
meas ac xp15k find depth_pre at=15000
meas ac xp20k find depth_pre at=20000

echo "  50 Hz:     $&xp50"
echo "  100 Hz:    $&xp100"
echo "  200 Hz:    $&xp200"
echo "  500 Hz:    $&xp500"
echo "  1000 Hz:   $&xp1k"
echo "  2000 Hz:   $&xp2k"
echo "  5000 Hz:   $&xp5k"
echo "  10000 Hz:  $&xp10k"
echo "  15000 Hz:  $&xp15k"
echo "  20000 Hz:  $&xp20k"

* Save full curves for external analysis
wrdata /tmp/trem_reg_gain.txt gain_dark gain_bright depth_full
wrdata /tmp/trem_reg_pre.txt pre_dark pre_bright depth_pre
wrdata /tmp/trem_reg_beta.txt beta_dark beta_bright delta_beta

echo ""
echo "================================================================"
echo " ANALYSIS COMPLETE"
echo "================================================================"
echo " Data files written to /tmp/trem_reg_*.txt"

.endc
.end
